US07402595B2
6-chloro-2-methylamino-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid 2-(4-methylthiazol-5-yl)ethyl ester
The present compound was synthesized by a method similar to that in Example 207 and using 2-[(benzyloxycarbonyl)(methyl)amino]-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (150 mg) and 2-(4-methylthiazol-5-yl)ethanol. A colorless powder (41 mg).

reactant | 2-[(benzyloxycarbonyl)(methyl)amino]-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 150 mg | C(C1=CC=CC=C1)OC(=O)N(N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)Cl)=O)C | C25H19ClN2O5
reactant | 2-(4-methylthiazol-5-yl)ethanol | CC=1N=CSC1CCO | C6H9NOS
product | 6-chloro-2-methylamino-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid 2-(4-methylthiazol-5-yl)ethyl ester | CC=1N=CSC1CCOC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)NC | C23H20ClN3O3S
